US08754079B2
207.2 4-[2-(trans-4-Methoxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methylester
Prepared analogously to example XVI.1 from 1.215 g 4-(2-hydroxy-pyridin-3-ylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester and 0.6 g cis-4-methoxycyclohexanol using DTAD and triphenylphosphine (polymerically bound from Aldrich).

reactant | 4-(2-hydroxy-pyridin-3-ylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 1.215 g | COC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)O)S1)C | C14H12N4O3S
reactant | cis-4-methoxycyclohexanol | 0.6 g | CO[C@H]1CC[C@H](CC1)O | C7H14O2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-[2-(trans-4-Methoxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methylester | COC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)O[C@@H]2CC[C@H](CC2)OC)S1)C | C21H24N4O4S
